US04582828
2-Phenyl-5-Oxo-1,3,4-Oxadiazoline
Into a stirred slurry of 25 g (0.18 mole) benzoylhydrazine in ethylacetate, 142.5 g (0.18 mole) 12.5% phosgene in toluene was dropped in. The reaction mixture was refluxed about 3 hours, and then allowed to stir over the weekend at ambient temperature. The flask was hooked to an aspirator and placed under vacuum to remove any possible peroxides. The mixture was filtered to give the above-identified product as a solid, melting point 133°-135° C.

reactant | benzoylhydrazine | 0.18 mole, 25 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | phosgene | 0.18 mole, 142.5 g | C(=O)(Cl)Cl | CCl2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Phenyl-5-Oxo-1,3,4-Oxadiazoline | C1(=CC=CC=C1)C=1OC(NN1)=O | C8H6N2O2
